US05859044
2a. 5-Bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic Acid
To a stirred solution of 5-bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic acid ethyl ester (2.3 g, 5.7 mmol) in ethanol/water (2:1, 45 ml) at room temperature was added potassium hydroxide (0.96 g, 17.1 mmol). The solution was warmed to reflux for about 3 hours, cooled, and most of the ethanol was removed under reduced pressure. To the residue was added water, 0.5N sodium hydroxide and methylene chloride, and the two-phase mixture was suction filtered to remove some insoluble material. The aqueous layer was acidified to pH 2 with 6N hydrochloric acid, and the precipitate was filtered off, washed with water, and air dried to afford the title compound, (1.66 g).

reactant | 5-bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic acid ethyl ester | 5.7 mmol, 2.3 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)CC1=CC=C(C=C1)[N+](=O)[O-] | C18H15BrN2O4
reactant | potassium hydroxide | 17.1 mmol, 0.96 g | [OH-].[K+]
solvent | ethanol water | 45 ml | C(C)O.O
product | 5-Bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic Acid | 1.66 g | BrC=1C=C2C=C(N(C2=CC1)CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C16H11BrN2O4
